US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2,2,2-trifluoroethyl)-1-piperazinecarbothioamide
As described for example 159, 7-chloro-4-(1-piperazinyl)-2-quinolinamine, 1,1,1-trifluoro-2-isothiocyanato-ethane, and diisopropylethyl amine, are reacted to give the product. LC-MS: 466 (M++1). 1H NMR (DMSO-TFA-d6) δ 1.0–1.3 (m, 1H), 3.0–3.14 (d, 1H), 3.18–3.38 (m, 6), 3.38–3.7 (m, 7H), 4.6–4.8 (m, 1H), 6.2–6.4 (s, 1H), 6.7–7.0 (m, 1H), 7.28–7.44 (m, 1H), 7.6–7.7 (s, 1H), 7.8–8.0 (m, 1H), 8.1–8.2 (m, 1H).

reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
reactant | 1,1,1-trifluoro-2-isothiocyanato-ethane | FC(CN=C=S)(F)F | C3H2F3NS
reactant | diisopropylethyl amine | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(2,2,2-trifluoroethyl)-1-piperazinecarbothioamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(NCC(F)(F)F)=S)Cl | C16H17ClF3N5S
